* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : NAND2_1X                                     *
* Netlisted  : Mon Sep 30 17:26:17 2024                     *
* Pegasus Version: 22.21-s012 Fri Mar 10 17:36:33 PST 2023  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_2                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_2 D_drain_1 S_source_0 3 4 B
** N=5 EP=5 FDC=1
M0 D_drain_1 3 S_source_0 B g45p1svt L=4.5e-08 W=2.4e-07 AD=3.84e-14 AS=3.36e-14 PD=8e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=3.45e-07 sca=30.4634 scb=0.0324604 scc=0.00263539 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_3                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_3 D_drain_1 2 3 4 B
** N=5 EP=5 FDC=1
M0 D_drain_1 2 3 B g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.84e-14 PD=7.6e-07 PS=8e-07 fw=2.4e-07 sa=3.45e-07 sb=1.4e-07 sca=26.1818 scb=0.02439 scc=0.00221187 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_5                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_5 D_drain_1 2 3 4
** N=4 EP=4 FDC=1
M0 D_drain_1 2 3 4 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=7.2e-15 PD=5.2e-07 PS=3.6e-07 fw=1.2e-07 sa=2.45e-07 sb=1.4e-07 sca=7.31073 scb=0.00435535 scc=4.26584e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_6                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_6 S_source_0 2 3
** N=3 EP=3 FDC=1
M0 3 2 S_source_0 S_source_0 g45n1svt L=4.5e-08 W=1.2e-07 AD=7.2e-15 AS=1.68e-14 PD=3.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=2.45e-07 sca=7.31073 scb=0.00435535 scc=4.26584e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NAND2_1X                                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NAND2_1X gnd! in_a in_b out vdd!
** N=6 EP=5 FDC=4
X0 in_a M1_PO_CDNS_1 $T=520 1770 0 90 $X=400 $Y=1670
X1 in_b M1_PO_CDNS_1 $T=1200 1830 0 90 $X=1080 $Y=1730
X2 out vdd! in_a gnd! vdd! pmos1v_CDNS_2 $T=620 2080 0 0 $X=200 $Y=1880
X3 vdd! in_b out gnd! vdd! pmos1v_CDNS_3 $T=1030 2080 0 0 $X=790 $Y=1880
X4 out in_b 6 gnd! nmos1v_CDNS_5 $T=830 720 0 0 $X=630 $Y=520
X5 gnd! in_a 6 nmos1v_CDNS_6 $T=620 720 0 0 $X=200 $Y=520
.ends NAND2_1X
